Name:  ___             Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Tetracycline Analogues / Atenolol / Tegaderm
 
Attending: ___.
 
Chief Complaint:
Nausea, vomiting, hypotension
 
Major Surgical or Invasive Procedure:
Left heart catheterization
Central Line Placement
Arterial Line Placement
Hemodialysis

 
History of Present Illness:
___ yo W with DM, ESRD on HD, CAD s/p multiple PCIs w/ most 
recent DES x2 to LCX, CHF w/EF ___, COPD on 2L home O2, PVD 
(R foot ulcer), OSA, Afib (not on coumadin ___ GIB) who presents 
w/ chills, malaise, fever and n/v.  
.
Pt. was in USOH, until the day of evaluation at 3pm, when she 
developed a sensation of malaise, chills, sweats followed by 
nausea and vomiting while cooking dinner.  Due to fatigue, she 
decided to lay down and hand an episode of emesis (non bilious, 
whitish colored).  Her daughter noted that she looked 
diaphoretic and pale while laying in bed as well as c/o of 
"twingy" chest dyscomfort. Temp at home was 101.8 at which time 
EMS was called. Pt. denies any other preceeding sx, and infact 
was seen by her cardiologist earlier and told that she was doing 
well.  She denies fevers, cough, worsening SOB/DOE, PND or 
orthopnea.  She did report intermittent substernal discomfort, 
similar to her prior admission (see below).  She notes some 
sacral pain at area of her prior cyst.  Also notes that her 
right foot ulcer has not been healing and reports having had an 
injection of "stem cells" into the ulcer by her podiatrist.  No 
dysuria, loose bms, arthralgias or myalgias.  Notes intermittent 
HA w/o photophobia.  Reports neck discomfort, unchanged from 
prior.  No sick contacts. 

Of note, pt. was admitted last ___ to ___ for CP, w/ 
lateral STd and flat CEs, s/p cath w/ LCX occlusion, s/p DESx2 
for instent-restenosis, right ischemic foot ulcer consistent w/ 
chronic osteomyelitis (RLE angiogram w/ poor perfusion but no 
distal targets and given poor BF surgical intervention was not 
felt feasible.  

While in EMS, pt. was given zofran and Nitro spray.  Initial VS 
in ___ were 102.5F 122 170/80 20 100% 12L.  Pt. was felt to be 
tachypneic w/ increased WOB and somewhat confused.  Labs were 
notable for WBC of 14K w/ left shifts and 4 bands, BNP 8K (prior 
62K), Trop of 0.16, Cr 3.7 and lactate of 1.8.  ECG showed STd 
I, V5-6, and in II, aVF along w/ STe ___ team d/w 
cardiology who felt this was demand ischemia in setting of 
increased demand.  She received Zofran/Reglan IV, Acetaminophen 
650mg, ASA 300PR and 750mg IV Levofloxacin as well as 1L NS.  
Although her HR decreased to 110s, SBP was in ___ and she was 
admitted to MICU for hypotension.  VS on transfer were ___ 
23 97% 4L.  
.  
On arrival to the MICU, pt. appeared somewhat somnolent, but 
easily arousable and appropriately responsive.  C/o some 
discomfort in her sacrum that is unchanged over the past month.  
Per daughter, her mother appears much improved in terms of color 
and alertness.   
 
Past Medical History:
- CAD s/p 4V CABG ___ (LIMA to LAD, SVG to diag, SVG to Cx, SVG  

to RCA), DES x3 to OM1 (___), BMS to OM1 (___), BMS x3  
to LCX/OM (___) and DESx2 to LCX ___.  
- TIA ___ or ___  
- paroxysmal afib/flutter s/p multiple cardioversions ___  
d/c'd coumadin ___ ago ___ GIB  
- ESRD  
- COPD on 3L home O2 (non compliant)  
- Morbid obesity  
- Hypertension  
- Hyperlipidemia  
- PVD s/p angioplasty of anterior tibial artery (___), s/p  
angioplasty of right dorsal pedis (___)  
- s/p L5 amp & ___ metatarsal head resections  
- GIB from PUD ___ yrs ago  
- OSA  
- Chronic anemia (baseline ~ 32)  
- C. diff colitis, toxin positive, in the absence of diarrhea  
- Hypothyroidism  
- Asthmatic bronchitis  
- Sciatica  
- Vertigo  
- MRSA hx 
- should PRESERVE HER LEFT ARM for future fistula 
placement

 
Social History:
___
Family History:
Mother died of breast cancer at age ___ sister died at ___ of 
glioblastoma; father died of lung cancer at ___; and sister died 
at ___ of heart disease; son died at ___, diabetic, of massive 
MI in ___ 

 
Physical Exam:
Admission physical exam:
General: Awakens easily to voice, obese, fatigued and slightly 
diaphoretic.  
HEENT: Sclera anicteric, pale, dMM, oropharynx clear
Neck: supple, head wag test negative, JVP 8, no LAD, tunneled 
line is NTTP.
CV: Regular rate, normal S1 + S2, ___ SM best at 2LICS w/o 
radiation no gallops  
Lungs: Crackles b/l at bases, no wheezing or rhnonchi 
Abdomen: obese, soft, non-tender, non-distended, bowel sounds 
present
GU: no foley  
Ext: warm, 1+ edema b/l, well perfused, diminished ___ pulses 
b/l, L > R, no clubbing.  There is a sacral cyst 8x6cm, 
erythematous, TTP.
R foot wrapped w/ gauze.  
Neuro: Awakens easily to voice, follows appendicular and axial 
commands.  Oriented to location, person, month, year, not day. 
DOWb intact, MOYb over 45 secs w/ one error.  Intact repetition, 
naming and writing. 
CNs: VFF, EOMI, no nystagmus, symmetric face, palate elevates 
symmetrically, tongue is midline.
Normal tone, no pronator drift. UEs ___ 
___.
Deferred gait.

DISCHARGE EXAM:
VSS, SBP 100-110, O2 sats 100% on 2L NC
Gen: AOx3, in good spirits, NAD
Heart: Irregularly irregular, normal S1, loud S2, ___ systolic 
murmur at apex with radiation to axilla, difficult to assess JVD 
based on obesity
Lungs: CTAB, no wheezes, crackles, rhonchi
Abd: obese, soft, NT, ND
Ext: chronic stasis changes, 1+ edema ___, R foot wrapped with 
Aquofor, large sacral cyst
 
Pertinent Results:
Admission labs:
___ 08:15PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-100 
GLUCOSE-NEG KETONE-TR BILIRUBIN-SM  UROBILNGN-2* PH-5.0 LEUK-MOD
___ 08:15PM URINE  HYALINE-72*
___ 08:15PM   WBC-14.8*# RBC-4.33 HGB-12.7 HCT-41.3 MCV-95 
MCH-29.4 MCHC-30.8* RDW-16.1*
___ 08:15PM   NEUTS-80* BANDS-4 LYMPHS-8* MONOS-6 EOS-1 
BASOS-1 ___ MYELOS-0
___ 08:15PM   ___ PTT-31.9 ___
___ 08:15PM   ALBUMIN-4.0
___ 08:15PM   ALT(SGPT)-25 AST(SGOT)-35 ALK PHOS-159* TOT 
BILI-0.3
___ 08:15PM   cTropnT-0.16*
___ 08:15PM   GLUCOSE-158* UREA N-25* CREAT-3.7* SODIUM-135 
POTASSIUM-4.9 CHLORIDE-96 TOTAL CO2-30 ANION GAP-14
___ 08:21PM   LACTATE-1.8
.
Cardiac labs:
___ 05:18AM BLOOD CK-MB-3 cTropnT-2.49*
___ 04:06AM BLOOD CK-MB-4 cTropnT-2.16*
___ 02:17PM BLOOD CK-MB-4 cTropnT-2.11*
___ 03:29AM BLOOD CK-MB-5 cTropnT-2.31*
___ 02:44PM BLOOD CK-MB-5 cTropnT-2.16*
___ 05:13AM BLOOD CK-MB-6 cTropnT-2.06*
___ 10:30PM BLOOD CK-MB-7 cTropnT-1.69*
___ 03:30PM BLOOD CK-MB-9 cTropnT-1.61*
___ 03:57AM BLOOD CK-MB-16* MB Indx-10.7* cTropnT-1.61*
___ 10:20PM BLOOD CK-MB-21* MB Indx-10.6* cTropnT-1.68*
___ 01:28PM BLOOD CK-MB-25* MB Indx-9.4* cTropnT-1.35*
___ 05:01AM BLOOD CK-MB-16* MB Indx-10.5* cTropnT-0.54*
___ 08:15PM BLOOD cTropnT-0.16*
___ 08:15PM BLOOD proBNP-8330*
.
___ CXR:
CONCLUSION: 
Loculated fluid right base and chronic fluid in left base. 
There is probably a small amount of increased fluid over the 
prior radiograph. There is cardiomegaly and unusually orientated 
sternal wires probably reflecting sternal dehiscence.
.
___ CXR:
FINDINGS: In comparison with the study of ___, the monitoring 
and support devices remain in place. Continued substantial 
enlargement of the cardiac silhouette with bilateral pleural 
effusions, compressive basilar atelectasis, and moderate 
pulmonary edema.
.
Cardiac catheterization ___:
FINAL DIAGNOSIS:     
1. Severe native three vessel coronary artery disease. 
2. Patent LIMA to LAD and SVG to OM2. 
3. New total occlusion of SVG to RCA. 
4. Successful POBA of OM1 with a 2.0 x 12 mm balloon. 
5. Successful RFA AngioSeal. 
6. Admit to the CCU with medical management. 
.
___ Echocardiography:
The left atrium is mildly dilated. There is mild symmetric left 
ventricular hypertrophy. The left ventricular cavity size is top 
normal/borderline dilated. There is severe regional left 
ventricular systolic dysfunction with near-akinesis of the 
septum and anterior wall. There is milder hypokinesis of the 
remaining segments (LVEF = ___. No masses or thrombi are 
seen in the left ventricle. The right ventricular cavity is 
moderately dilated with mild global free wall hypokinesis. The 
diameters of aorta at the sinus, ascending and arch levels are 
normal. The aortic valve leaflets are moderately thickened. 
There is at least mild aortic valve stenosis (valve area 
1.2-1.9cm2). Trace aortic regurgitation is seen. The mitral 
valve leaflets are mildly thickened. Moderate (2+) mitral 
regurgitation is seen. The tricuspid valve leaflets are mildly 
thickened. There is moderate pulmonary artery systolic 
hypertension. There is no pericardial effusion. 
.
IMPRESSION: Mildly hypertrophied and borderline dilated left 
ventricle with severe regional and global systolic dysfunction. 
At least mild aortic stenosis. Moderate mitral regurgitation. 
Moderate pulmonary hypertension.
.
Compared with the limited prior study (images reviewed) of 
___, the findings are similar.  
 ===============================
EKG ___:
Sinus rhythm. Compared to the previous tracing cardiac rhythm is 
now sinus 
mechanism. 
TRACING #3 
===========================
DISCHARGE LABS

___ 06:21AM BLOOD WBC-6.2 RBC-3.49* Hgb-10.7* Hct-33.9* 
MCV-97 MCH-30.6 MCHC-31.4 RDW-16.2* Plt ___
___ 03:29AM BLOOD ___ PTT-29.1 ___
___ 06:21AM BLOOD Glucose-68* UreaN-25* Creat-4.6*# Na-133 
K-4.0 Cl-93* HCO3-30 AnGap-14
___ 05:18AM BLOOD CK(CPK)-14*
___ 06:21AM BLOOD Calcium-9.3 Phos-4.2 Mg-2.2
=============================
URINE CULTURE (Final ___: 
      KLEBSIELLA OXYTOCA.    10,000-100,000 ORGANISMS/ML.. 
         Piperacillin/tazobactam sensitivity testing available 
on request. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             KLEBSIELLA OXYTOCA
                             |   
AMPICILLIN/SULBACTAM--     8 S
CEFAZOLIN-------------  =>64 R
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
NITROFURANTOIN--------    ___ I
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

 
Brief Hospital Course:
___ yo W with DM, ESRD on HD, CAD s/p multiple PCIs w/ most 
recent DES x2 to LCX, CHF w/EF ___, COPD on 2L home O2, PVD 
(R foot ulcer), OSA, Afib (not on coumadin ___ GIB) who presents 
w/ chills, malaise, fever and hypotension, found to have a UTI 
but also NSTEMI s/p cardiac cath and POBA of OM1.
.
1. Hypotension: Likely multifactorial, but mostly cardiogenic 
shock and UTI, possible pneumonia. In setting of fever, n/v and 
malaise w/ leukocytosis and relative bandemia concerning for 
sepsis. The patient grew Klebsiella from her urine culture, but 
had negative blood cultures during her admission. She did not 
have physiology of cardiogenic shock, however, her EKG had 
demand changes and she had positive enzymes. The patient's 
hypotension resolved with continued supportive care. She will 
continue Levofloxacin 250mg Qday x 6 days for a total 14 day 
course.
.
2. NSTEMI:  The patient was initially free from chest pain, 
though her EKG was concerning for ischemia. Her cardiac enzymes 
suggested that she was indeed experiencing ischemia. Due to 
previous GI bleeds, heparin could not be started on patient. As 
patient became more stable, she had an episode of chest pain, 
which resulted in cardiac catheterization that showed severe 
native three vessel coronary artery disease, patent LIMA to LAD 
and SVG to OM2, and a new total occlusion of SVG to RCA. The 
patient received successful POBA of OM1 with a 2.0 x 12 mm 
balloon and successful RFA AngioSeal. She was discharged on 
Plavix, Aspirin, Metoprolol, Statin, and Nitroglycerin PRN.
.
3. Acute Systolic Heart Failure Exacerbation: Pulmonary 
congestion worsened during early MICU stay, but was able to 
remove fluid via ultrafiltration. The patient initially was 
unable to undergo a full dialysis schedule due to hypotension, 
but she then underwent 3 consecutive successful sessions with 
improvement in her weight and subjective dyspnea. She was able 
to be discharged on her home O2 requirement. She was discharged 
on low dose metoprolol, aspirin, and statin. She does not 
tolerate an ACEI. 

4.. RLE ulcer with dx of chronic osteo:  Arterial by description 
from prior podiatry notes.  Unable to examine as pt. refusing at 
this time.  PVD not amendable to intervention per pt. 
cardiologist. Podiatry evaluated patient, felt infection not 
likely and left wound care recommendations.
.
5. ESRD, due to DM/HTN: Continued hemodialysis and 
sevelamer/nephrocaps.
.
6. Atrial fibrillation: The patient was not on anticoagulation 
secondary to history of GI bleeds. During ICU stay, her atrial 
fibrillation was difficult to control due to holding metoprolol 
due to hypotension. As she stabilized, the patient's home 
metoprolol was returned and she received amiodarone in loading 
dose and continued at 400mg Qday. By discharge, the patient had 
good rate control.
.
7. COPD: on home ___, currently at baseline. No wheezing on 
exam. Continued albuterol and ipratropium.
.
8. DM: Continued home NPH and SS.
.
9. Hypothyroidism: Continued home levothyroxine.
.
TRANSITIONAL ISSUES:
- The patient met with palliative care while she was here and 
there was some discussion about goals of care and possible 
hospice. The patient will continue to have this discussion with 
her family
- The patient can have uptitration of many of her cardiac meds 
as needed, depending on her SBP. The patient can go up on her 
midodrine to TID as needed as well.
 
Medications on Admission:
-- albuterol/ipratropium 2 puffs daily
-- amiodarone 200 mg daily
-- atorvastatin 40 mg daily
-- B complex-vitamin C-folic acid 1 mg
-- bupropion HCl 150 mg ER daily
-- clopidogrel 75 mg daily
-- folic acid ___
-- fluticasone 50 mcg nasa daily
-- gabapentin 300 mg daily
-- levothyroxine 100 mcg daily
-- isosorbide mononitrate 30 daily
-- metoprolol tartrate 12.5 mg bid
-- midodrine 10 mg bid
-- sevelamer carbonate 1600 mg tid w/ meals
-- torsemide 100 mg bid
-- aspirin 325 mg daily
-- docusate sodium 100 mg bid
-- insulin NPH & regular human (70-30) (32) units am daily
-- Flaxseed oil 1200mg daily
-- NTG prn

 
Discharge Medications:
1. B complex-vitamin C-folic acid 1 mg Capsule Sig: One (1) Cap 
PO DAILY (Daily).  
2. bupropion HCl 150 mg Tablet Extended Release Sig: One (1) 
Tablet Extended Release PO QAM (once a day (in the morning)).  
3. clopidogrel 75 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
4. folic acid ___ mcg Tablet Sig: One (1) Tablet PO once a day.  

5. fluticasone 50 mcg/actuation Spray, Suspension Sig: One (1) 
Spray Nasal once a day as needed for allergy symptoms.  
6. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
7. midodrine 10 mg Tablet Sig: One (1) Tablet PO twice a day.  
8. sevelamer carbonate 800 mg Tablet Sig: Two (2) Tablet PO TID 
W/MEALS (3 TIMES A DAY WITH MEALS).  
9. aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
10. insulin NPH & regular human 100 unit/mL (70-30) Insulin Pen 
Sig: ___ (32) units Subcutaneous once a day.  
11. levofloxacin 250 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily) for 6 days.
Disp:*6 Tablet(s)* Refills:*0*
12. docusate sodium 100 mg Capsule Sig: One (1) Capsule PO BID 
(2 times a day).  
13. nitroglycerin 0.3 mg Tablet, Sublingual Sig: One (1) Tablet, 
Sublingual Sublingual PRN as needed for chest pain.  
14. Tylenol ___ mg Tablet Sig: ___ Tablets PO every ___ hours as 
needed for pain.  
15. polyethylene glycol 3350 17 gram Powder in Packet Sig: One 
(1) Powder in Packet PO DAILY (Daily) as needed for 
constipation.  
16. atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
17. amiodarone 400 mg Tablet Sig: One (1) Tablet PO once a day.  

18. metoprolol tartrate 25 mg Tablet Sig: 0.25 Tablet PO BID (2 
times a day).  
19. gabapentin 300 mg Capsule Sig: One (1) Capsule PO once a 
day.  
20. Combivent ___ mcg/actuation Aerosol Sig: ___ puffs 
Inhalation every ___ hours as needed for shortness of breath or 
wheezing.  

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
NSTEMI
UTI
Acute Systolic Heart Failure Exacerbation
COPD
DM2
Cardiogenic Shock

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
You were admitted to the hospital because you had fever, chills, 
and fatigue at home. In the ___, you had low BP and signs of 
infection, so they stabilized you in the ICU before you were 
transfered to the cardiology service. While you were in the ICU, 
you had chest pain and positive cardiac enzymes and we found 
during a catheterization that you had a blockage of one of your 
coronary vessels, however, no intervention was undertaken. We 
continued to get fluid off with dialysis, which was initially 
limited due to hypotension. Your hypotension resolved, and we 
were able to get you on your heart failure medications and 
perform multiple dialysis to get the extra fluid off. We treated 
you for a UTI. Our podiatry colleagues evaluated your foot ulcer 
and would like to follow up with you as an outpatient. 

Weigh yourself every morning, call MD if weight goes up more 
than 3 lbs.

MEDICATION CHANGES:
Stop Isosrbide mononitrate
Stop Torsemide
Increase Lipitor from 40mg to 80mg once a day
Increase Amiodarone from 200mg to 400mg once a day
Decrease Metoprolol from 12.5mg to 6.25mg twice a day
Start Levofloxacin 250mg once day for 6 days
 
Followup Instructions:
___